US07271274B2
2,6-Di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-hydroxy-ethoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol
A 100 mL, 2-neck round bottom flask equipped with a nitrogen adapter and a temperature probe was charged with 5.0 g (8.7 mmol, 1 eq) of {2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-acetic acid and 40 mL of anhydrous THF. The solution was cooled to 0° C. using an ice bath and 26.1 mL of 1.0 M (26.1 mmol, 3 eq) borane in THF at a rate such that the maximum temperature was less than 30° C. The solution was warmed to 30° C. and consumption of starting material was monitored by TLC. After 4 hours, the flask was cooled to 0° C. using an ice bath and 75 mL of methanol was slowly added. The resulting solution was concentrated under reduced pressure. The resulting oil was dissolved in 50 mL of methanol and concentrated under reduced pressure two more times. The residue was slurried in 50 mL of hexanes and concentrated under reduced pressure a total of 4 times. The residue was taken up in 50 mL of hexanes and the product was allowed to slowly precipitate. The precipitate was collected by vacuum filtration, washed with 10 mL of hexanes and dried in vacuo to yield 3.1 g (5.6 mmol, 64% yield) of the title compound as a white powder, mp 146–147° C.; 1H NMR (300 MHz, CDCl3) d 7.56 (s, 2H), 7.45 (s, 2H), 5.37 (s, 1H), 4.03 (t, J=5.2 Hz, 2H), 2H), 3.92 (t, J=5.1 Hz, 2H), 1.47 (s, 6H), 1.46 (s, 18H), 1.45 (s, 18H). Anal. calcd for C33H52O3S2: C70.66, H9.34, S11.43; found: C70.36, H9.37, S11.35. HRMS (EI+), m/z: calc. 560.3358; Found 560.3347

reactant | {2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-acetic acid | 8.7 mmol, 5.0 g, 1 eq | C(C)(C)(C)C1=C(OCC(=O)O)C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)(C)C | C33H50O4S2
reactant | borane | 26.1 mmol, 1.0 M, 3 eq | B | BH3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2,6-Di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-hydroxy-ethoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol | 5.6 mmol, 3.1 g, 64% yield | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OCCO)C(C)(C)C)C(C)(C)C)O | C33H52O3S2
